US09145438B2
Step 5: 1-(4-tert-butylphenyl)-3-(3-hydroxypropyl)urea
A solution of 3-amino-1-propanol (0.180 mL, 2.36 mmol) in diethylether (15 mL) was cooled at 0° C. and treated dropwise with 1-tert-butyl-4-isocyanatobenzene (0.400 mL, 2.25 mmol). The reaction mixture was allowed to slowly warm to room temperature. After 16 h the reaction was found to be complete by TLC (100% ethyl acetate) The reaction mixture was diluted with 10 mL portions of CH2Cl2 and Et2O and washed with 15 mL portions of H2O, 0.5N HCl and brine and dried over Na2SO4. The organic phase was filtered and concentrated to yield a colorless viscous oil which was dissolved in PhCH3, concentrated and placed under high vac overnight to yield the title compound (600 mg, 110%) as a colorless viscous oil: MS (ESI+) for C14H22N2O2 m/z 251.0 (M+H)+; (ESI−) for C14H22N2O2 m/z 249.3 (M−H)−; HPLC purity 98% (ret. time, 3.43 min).

reactant | 3-amino-1-propanol | 2.36 mmol, 0.180 mL | NCCCO | C3H9NO
reactant | 1-tert-butyl-4-isocyanatobenzene | 2.25 mmol, 0.400 mL | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethylether | 15 mL | C(C)OCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
solvent | PhCH3 | C1(=CC=CC=C1)C | C7H8
product | 1-(4-tert-butylphenyl)-3-(3-hydroxypropyl)urea | 600 mg, 110% | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)NCCCO | C14H22N2O2
